US07220744B2
(a) 2-tert-Butoxy-5-methanesulfonyl-benzoic acid methyl ester
To a solution of 2.17 mmol methyl 5-(methanesulfonyl)-salicylate (WO 2002074774) in 5 ml toluene was added 4.78 mmol N,N-dimethylformamide-di-tert-butylacetal and the reaction mixture was stirred at 80° C. for 1 hour. After such time the reaction mixture was concentrated in vacuo and purified by column chromatography to yield the title compound as colourless oil. MS (m/e): 304.4 (M+NH4+, 100%).

reactant | methyl 5-(methanesulfonyl)-salicylate | 2.17 mmol | CS(=O)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C9H10O5S
reactant | N,N-dimethylformamide-di-tert-butylacetal | 4.78 mmol | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-tert-Butoxy-5-methanesulfonyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)(C)C)=O | C13H18O5S
